.SUBCKT nch90 d g s b w=1u l=0.1u nf=1 ad=1e-12 as=1e-12 pd=4e-6 ps=4e-6
M1 d g s b nmos90 w='w' l='l' nf='nf' ad='ad' as='as' pd='pd' ps='ps'
.ENDS
.MODEL NMOS90 NMOS
+ LEVEL=301
*--------------------------------
*-- FLAGS AND SETUP PARAMETERS --
*--------------------------------
+SIGN  = 1.000
+TNOM  = 27.00
+TG    = -1.000
+QOFF  = 0.000
+XL    = 0.000
+XW    = 0.000
+SCALE = 1.000
*---------------------------------------------------------
*-- OXIDE, SUBSTRATE AND GATE DOPING RELATED PARAMETERS --
*---------------------------------------------------------
+VTO   = 55.00m
+COX   = 14.50m
+XJ    = 20.00n
+PHIF  = 428.0m
+GAMMA = 155.0m
+GAMMAG= 15.00
+N0    = 1.050
*---------------------
*-- QUANTUM EFFECTS --
*---------------------
+AQMA = 2.000
+AQMI = 500.0m
+ETAQM= 750.0m
*------------------------------------------------
*-- VERTICAL FIELD MOBILITY EFFECTS PARAMETERS –-
*------------------------------------------------
+KP = 1.100m
+E0 = 140.0MEG
+E1 = 10.00G
+ETA= 1.000
*------------------------
*-- COULOMB SCATTERING --
*------------------------
+ZC = 1.000u
+THC= 0.000
*-------------------------------------------
*-- DRAIN INDUCED THRESHOLD VOLTAGE SWIFT --
*-------------------------------------------
+FPROUT= 3.000MEG
+PDITS = 60.00u
+PDITSL= 0.000
+PDITSD= 200.0m
+DDITS = 10.00
*---------------------------------------------
*-- MOBILITY RELATED GEOMETRICAL PARAMETERS –-
*---------------------------------------------
+KA  = 400.0m
+LA  = 300.0n
+KB  = 500.0m
+LB  = 20.00n
+WKP1= 240.0n
+WKP2= 600.0m
+WKP3= 500.0m
*----------------------------------------------------
*-- LONG AND WIDE CHANNEL VTO AND GAMMA CORRECTION --
*----------------------------------------------------
+LVT= 1.000
+WVT= 100.0u
+AVT= 35.00m
+LGAM= 1.000
+WGAM= 100.0u
+AGAM= 25.00m
*----------------------------
*-- GEOMETRICAL PARAMETERS –-
*----------------------------
+DL = 25.00n
+DW = -10.00n
+DLC= 0.000
+DWC= 15.00n
+LL = 0.000
+LLN= 1.000
+WDL= 7.000f
+LDW= 2.500f
*----------------------------------
*-- REVERSE SHORT CHANNEL EFFECT --
*----------------------------------
+LR = 67.08n
+QLR= 3.300m
+NLR= 75.00m
+FLR= 1.000
*---------------------------------
*-- INVERSE NARROW WIDTH EFFECT –-
*---------------------------------
+WR = 100.0n
+QWR= 5.000u
+NWR= 5.000m
*---------------------------
*-- CHARGE SHARING EFFECT --
*---------------------------
+NCS  = 1.500
+LETA0= 1.00MEG
+LETA = 1.050
+LETA2= -25.00n
+WETA = 0.000
*--------------------------------------------------
*-- VELOCITY SATURATION & CLM RELATED PARAMETERS --
*--------------------------------------------------
+UCRIT= 3.800MEG
+LAMBDA= 480.0m
+DELTA= 2.000
+ACLM= 830.0m
*------------------------------------
*-- DRAIN INDUCED BARRIER LOWERING --
*------------------------------------
+ETAD  = 1.100
+SIGMAD= 300.0m
*--------------------------
*-- OVERLAP CAPACITANCES –-
*--------------------------
+LOV    = 21.00n
+GAMMAOV= 4.000
+VFBOV  = 0.000
+VOV    = 1.000
*+ cgso = 10p cgdo = 10p cgbo = 1p
*---------------------------
*-- FRINGING CAPACITANCES --
*---------------------------
+KJF= 0.000
+CJF= 0.000
*-------------------------------
*-- IMPACT IONIZATION CURRENT --
*-------------------------------
+IBA= 0.000
+IBB= 900.0MEG
+IBN= 100.0m
*------------------
*-- GATE CURRENT --
*------------------
+KG   = 15.00u
+XB   = 6.000
+EB   = 40.00G
+LOVIG= 25.00n
*------------------------------
*-- FLICKER NOISE PARAMETERS --
*------------------------------
+AF= 1.000
*+KF= 0.000
+kf= 1e-23
*----------------------------
*-- TEMPERATURE PARAMETERS --
*----------------------------
+TCV    = 300.0u
+BEX    = -1.200
+TETA   = 0.000
+UCEX   = 1.500
+TLAMBDA= 200.0m
+TE0EX  = 0.000
+TE1EX  = 0.000
+IBBT   = 900.0u
*--------------------------------------
*-- TEMPERATURE AND GEOMETRY SCALING --
*--------------------------------------
+TCVL = 0.000
+TCVW = 80.00p
+TCVWL= 0.000
*-------------------------------------
*-- RESISTANCES TEMPERATURE SCALING --
*-------------------------------------
+TR = 0.000
+TR2= 0.000
*---------------------------------------------------------------------
*-- JUNCTION DRAIN - BULK AND SOURCE-BULK AREA, CURRENT, CAPACITANCE -
*-- SOURCE SIDE
+NJS  = 1.250
+JSS  = 10.00u
+JSSWS= 0.000
+JSSWGS= 0.000
+MJS   = 150.0m
+MJSWS = 468.3m
+MJSWGS= 468.3m
+PBS   = 598.8m
+PBSWS = 1.457
+PBSWGS= 1.457
+CJS   = 4.000m
+CJSWS = 70.00p
+CJSWGS= 70.00p
+NJTSS   = 2.000
+NJTSSWS = 1.000
+NJTSSWGS= 1.000
+VTSS    = 300.0m
+VTSSWS  = 300.0m
+VTSSWGS = 300.0m
+XJBVS= 1.000
+BVS = 3.000
+XTIS= 3.000
+TNJTSS= 2.500
+TNJTSSWS = 2.000
+TNJTSSWGS= 2.000
*-- DRAIN SIDE
+NJD   = 1.250
+JSD   = 10.00u
+JSSWD = 0.000
+JSSWGD= 0.000
+MJD   = 150.0m
+MJSWD = 468.3m
+MJSWGD= 468.3m
+PBD  = 598.8m
+PBSWD= 1.457
+PBSWGD= 1.457
+CJD   = 4.000m
+CJSWD = 70.00p
+CJSWGD= 70.00p
+NJTSD  = 2.000
+NJTSSWD = 1.000
+NJTSSWGD= 1.000
+VTSD   = 300.0m
+VTSSWD = 300.0m
+VTSSWGD= 300.0m
+XJBVD= 1.000
+BVD = 3.000
+XTID= 3.000
+TNJTSD   = 2.500
+TNJTSSWD = 2.000
+TNJTSSWGD= 2.000
*-- BOTH SIDES
+GMIN= 10.00p
+TCJ   = 867.4u
+TCJSW = 687.3u
+TCJSWG= 687.3u
+TPB   = 0.000
+TPBSW = 0.000
+TPBSWG= 0.000
*------------------------------
*-- WIDTH SCALING PARAMETERS --
*------------------------------
+WE0       = 50.00n
+WE1       = 0.000
+WRLX      = 50.00n
+WUCRIT    = -40.00n
+WLAMBDA   = 0.000
+WETAD     = 0.000
+WUCEX     = 0.000
+WLR       = 0.000
+WQLR      = 0.000
+WNLR      = 130.0n
+WDPHIEDGE = 0.000
*-------------------------------
*-- LENGTH SCALING PARAMETERS --
*-------------------------------
+LWR       = 0.000
+LQWR      = 1.500u
+LNWR      = 0.000
+LDPHIEDGE = 0.000
*-----------------
*-- EDGE DEVICE --
*-----------------
+DGAMMAEDGE= 0.000
+DPHIEDGE  = 0.000
+WEDGE     = 0.000
*---------------------------------
*-- COMBINED SCALING PARAMETERS --
*---------------------------------
+WLDPHIEDGE = 0.000
+WLDGAMMAEDGE= 0.000
*-----------------------
*-- STI STRESS EFFECT --
*-----------------------
+SAREF = 1.460u
+SBREF = 1.460u
+KVTO  = 0.000
+KKP   = -35.00n
+KGAMMA= 0.000
+KETAD = 30.00n
+KUCRIT= -9.000
*--------------------------------
*-- EXTERNAL SERIES RESISTANCE --
*--------------------------------
+RLX= 75.00u
*-----------------------------
*-- SPICE GEOMETRICAL MODEL --
*-----------------------------
+RSH= 0.000
+LDIF= 0.000
+HDIF= 240.0n
*---------------------
*-- GATE RESISTANCE --
*---------------------
+GC  = 1.000
+RGSH= 53.00
*----------------------------------
*-- SUBSTRATE RESISTANCE NETWORK --
*----------------------------------
+RDSBSH= 1.500K
+RBWSH = 1.000K
+RSBWSH= 50.00
+RDBWSH= 50.00

.SUBCKT pch90 d g s b w=3u l=0.1u nf=1 ad=3e-12 as=3e-12 pd=8e-6 ps=8e-6
M1 d g s b pmos90 w='w' l='l' nf='nf' ad='ad' as='as' pd='pd' ps='ps'
.ENDS
.MODEL PMOS90 PMOS
+ LEVEL=301
*--------------------------------
*-- FLAGS AND SETUP PARAMETERS --
*--------------------------------
+SIGN = -1.000
+TNOM = 27.00
+TG   = -1.000
+QOFF = 0.000
+XL   = 0.000
+XW   = 0.000
+SCALE= 1.000
*---------------------------------------------------------
*-- OXIDE, SUBSTRATE AND GATE DOPING RELATED PARAMETERS --
*---------------------------------------------------------
+VTO   = -88.00m
+COX   = 13.50m
+XJ    = 10.410n
+PHIF  = 420.0m
+GAMMA = 25.96m
+GAMMAG= 5.500
+N0    = 1.100
*---------------------
*-- QUANTUM EFFECTS --
*---------------------
+AQMA = 590.8m
+AQMI = 392.6m
+ETAQM= 750.0m
*------------------------------------------------
*-- VERTICAL FIELD MOBILITY EFFECTS PARAMETERS –-
*------------------------------------------------
+KP = 310.0u
+E0 = 95.00MEG
+E1 = 8.259G
+ETA= 1.311
*------------------------
*-- COULOMB SCATTERING --
*------------------------
+ZC = 1.000u
+THC= 0.000
*-------------------------------------------
*-- DRAIN INDUCED THRESHOLD VOLTAGE SWIFT --
*-------------------------------------------
+FPROUT= 10.00MEG
+PDITS = 15.00u
+PDITSL= 0.000
+PDITSD= 800.0m
+DDITS = 10.00
*---------------------------------------------
*-- MOBILITY RELATED GEOMETRICAL PARAMETERS –-
*---------------------------------------------
+KA  = 0.000
+LA  = 3.000u
+KB  = 0.000
+LB  = 170.0n
+WKP1= 300.0n
+WKP2= -270.0m
+WKP3= 1.500
*----------------------------------------------------
*-- LONG AND WIDE CHANNEL VTO AND GAMMA CORRECTION --
*----------------------------------------------------
+LVT= 1.000
+WVT= 100.0u
+AVT= 150.0m
+LGAM= 1.500u
+WGAM= 1.000
+AGAM= -200.0m
*----------------------------
*-- GEOMETRICAL PARAMETERS –-
*----------------------------
+DL  = 85.00n
+DW  = 0.00n
+DLC = 0.000
+DWC = 100.0n
+LL  = 0.000
+LLN = 1.000
+WDL = 0.000
+LDW = 0.000
*----------------------------------
*-- REVERSE SHORT CHANNEL EFFECT --
*----------------------------------
+LR = 38.26n
+QLR= 8.300m
+NLR= 7.494
+FLR= 0.000
*---------------------------------
*-- INVERSE NARROW WIDTH EFFECT –-
*---------------------------------
+WR = 40.00n
+QWR= 300.0u
+NWR= -30.00m
*---------------------------
*-- CHARGE SHARING EFFECT --
*---------------------------
+NCS  = 2.000
+LETA0= 2.700MEG
+LETA = 1.500
+LETA2= 0.000
+WETA = 0.000
*--------------------------------------------------
*-- VELOCITY SATURATION & CLM RELATED PARAMETERS --
*--------------------------------------------------
+UCRIT= 16.50MEG
+LAMBDA= 1.450
+DELTA= 1.000
+ACLM= 830.0m
*------------------------------------
*-- DRAIN INDUCED BARRIER LOWERING --
*------------------------------------
+ETAD  = 1.750
+SIGMAD= 1.000
*--------------------------
*-- OVERLAP CAPACITANCES –-
*--------------------------
+LOV    = 24.00n
+GAMMAOV= 3.000
+VFBOV  = 0.000
+VOV    = 1.000
+ cgso = 10p cgdo = 10p cgbo = 1p
*---------------------------
*-- FRINGING CAPACITANCES --
*---------------------------
+KJF= 0.000
+CJF= 0.000
*-------------------------------
*-- IMPACT IONIZATION CURRENT --
*-------------------------------
+IBA= 0.000
+IBB= 400.0MEG
+IBN= 100.0m
*------------------
*-- GATE CURRENT --
*------------------
+KG   = 24.61u
+XB   = 4.280
+EB   = 28.42G
+LOVIG= 28.06n
*------------------------------
*-- FLICKER NOISE PARAMETERS --
*------------------------------
+AF= 1.000
+KF= 0.000
*----------------------------
*-- TEMPERATURE PARAMETERS --
*----------------------------
+TCV    = -500.0u
+BEX    = -1.100
+TETA   = 0.000
+UCEX   = 3.500
+TLAMBDA= 1.500
+TE0EX  = 500.0m
+TE1EX  = 1.000
+IBBT   = 700.0u
*--------------------------------------
*-- TEMPERATURE AND GEOMETRY SCALING --
*--------------------------------------
+TCVL = -30.00p
+TCVW = 30.00p
+TCVWL= 0.000
*-------------------------------------
*-- RESISTANCES TEMPERATURE SCALING --
*-------------------------------------
+TR = -5.000m
+TR2= 0.000
*---------------------------------------------------------------------
*-- JUNCTION DRAIN - BULK AND SOURCE-BULK AREA, CURRENT, CAPACITANCE -
*-- SOURCE SIDE
+NJS= 1.000
+JSS   = 1.000u
+JSSWS = 0.000
+JSSWGS= 0.000
+MJS   = 900.0m
+MJSWS = 700.0m
+MJSWGS= 700.0m
+PBS   = 800.0m
+PBSWS = 600.0m
+PBSWGS= 600.0m
+CJS   = 12.00m
+CJSWS = 0.000
+CJSWGS= 0.000
+NJTSS   = 1.000
+NJTSSWS = 1.000
+NJTSSWGS= 1.000
+VTSS   = 0.000
+VTSSWS = 0.000
+VTSSWGS= 0.000
+XJBVS= 0.000
+BVS = 10.00
+XTIS= 3.000
+TNJTSS  = 0.000
+TNJTSSWS= 0.000
+TNJTSSWGS= 0.000
*-- DRAIN SIDE
+NJD = 1.000
+JSD   = 1.000u
+JSSWD = 0.000
+JSSWGD= 0.000
+MJD   = 900.0m
+MJSWD = 700.0m
+MJSWGD= 700.0m
+PBD   = 800.0m
+PBSWD = 600.0m
+PBSWGD= 600.0m
+CJD= 12.00m
+CJSWD= 0.000
+CJSWGD= 0.000
+NJTSD  = 1.000
+NJTSSWD= 1.000
+NJTSSWGD= 1.000
+VTSD  = 0.000
+VTSSWD= 0.000
+VTSSWGD= 0.000
+XJBVD= 0.000
+BVD = 10.00
+XTID= 3.000
+TNJTSD   = 0.000
+TNJTSSWD = 0.000
+TNJTSSWGD= 0.000
*-- BOTH SIDES
+GMIN= 0.000
+TCJ   = 694.8u
+TCJSW = 1.124m
+TCJSWG= 1.124m
+TPB   = 2.450m
+TPBSW = -1.360m
+TPBSWG= -1.360m
*------------------------------
*-- WIDTH SCALING PARAMETERS --
*------------------------------
+WE0      = 150.00n
+WE1      = 0.000
+WRLX     = 0.000
+WUCRIT   = 130.0n
+WLAMBDA  = 25.00n
+WETAD    = -40.00n
+WUCEX    = 0.000
+WLR      = 0.000
+WQLR     = -20.00n
+WNLR     = -170.0n
+WDPHIEDGE= 0.000
*-------------------------------
*-- LENGTH SCALING PARAMETERS --
*-------------------------------
+LWR = 0.000
+LQWR= 0.000
+LNWR= -50.00n
+LDPHIEDGE= 0.000
*-----------------
*-- EDGE DEVICE --
*-----------------
+DGAMMAEDGE= 0.000
+DPHIEDGE  = 0.000
+WEDGE     = 0.000
*---------------------------------
*-- COMBINED SCALING PARAMETERS --
*---------------------------------
+WLDPHIEDGE = 0.000
+WLDGAMMAEDGE= 0.000
*-----------------------
*-- STI STRESS EFFECT --
*-----------------------
+SAREF  = 1.460u
+SBREF  = 1.460u
+KVTO   = 7.000n
+KKP    = 30.00n
+KGAMMA = 0.000
+KETAD  = 0.000
+KUCRIT = 0.000
*--------------------------------
*-- EXTERNAL SERIES RESISTANCE --
*--------------------------------
+RLX= 50.00u
*-----------------------------
*-- SPICE GEOMETRICAL MODEL --
*-----------------------------
+RSH= 0.000
+LDIF= 0.000
+HDIF= 240.0n
*---------------------
*-- GATE RESISTANCE --
*---------------------
+GC  = 1.000
+RGSH= 50.00
*----------------------------------
*-- SUBSTRATE RESISTANCE NETWORK --
*----------------------------------
+RDSBSH= 10.00K
+RBWSH = 1.000K
+RSBWSH= 75.00
+RDBWSH= 75.00
